US04619941
5-Chloro-N-[6-(1H-imidazol-1-yl)hexyl]-1H-indole2-carboxamide
When 5-chloroindole-2-carboxylic acid is reacted with 1,1'-carbonyldiimidazole and 1H-imidazole-1-hexanamine by the procedure of Example 29, the compound of the Example is obtained.

reactant | 5-chloroindole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1H-imidazole-1-hexanamine | N1(C=NC=C1)CCCCCCN | C9H17N3
product | 5-Chloro-N-[6-(1H-imidazol-1-yl)hexyl]-1H-indole2-carboxamide | ClC=1C=C2C=C(NC2=CC1)C(=O)NCCCCCCN1C=NC=C1 | C18H21ClN4O
